US06825170B2
(2E)-3-(2-quinoxalinyl)-2-propenal
The title compound is prepared by a procedure analogous to Reference Example 30 by substituting 2-quinoxalinecarboxaldehyde (prepared as described in J. Chem. Soc. 1956, 2052) for the 4-(1H-pyrazol-1-yl)-benzaldehyde of Reference Example 30. MS 185 (M+H)+.

reactant | 2-quinoxalinecarboxaldehyde | N1=C(C=NC2=CC=CC=C12)C=O | C9H6N2O
reactant | 4-(1H-pyrazol-1-yl)-benzaldehyde | N1(N=CC=C1)C1=CC=C(C=O)C=C1 | C10H8N2O
product | (2E)-3-(2-quinoxalinyl)-2-propenal | N1=C(C=NC2=CC=CC=C12)/C=C/C=O | C11H8N2O
